US05314887
Part A: 2-[(4-Chlorobutyl)thio]benzyl alcohol:
To a 5 liter 4-neck round-bottom flask fitted with mechanical stirrer, thermowell, and addition funnel, under a nitrogen atmosphere, was added 150.0 g of o-mercaptobenzyl alcohol, 2400 ml of isopropanol and 295.72 g of anhydrous potassium carbonate. The reaction mixture was cooled in an ice bath, as 246.6 ml of 1-bromo-4-chlorobutane was added dropwise. After addition was complete, the mixture was allowed to warm to room temperature, and stirred at room temperature overnight. The mixture was filtered through a pad of filter aid, and the solid was rinsed with fresh isopropanol. The solvent was removed by rotary evaporation to give 246.0 g of the product as a brown oil. 1H-NMR (CDCl3) δ 1.7-2.1(m,4H); 2.3(br s,1H); 2.85-3.0(t,2H); 3.5-3.6(t,2H); 4.75(s,2H); 7.2-7.4(m,4H).

reactant | o-mercaptobenzyl alcohol | 150.0 g | SC1=C(CO)C=CC=C1 | C7H8OS
reactant | potassium carbonate | 295.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-4-chlorobutane | 246.6 ml | BrCCCCCl | C4H8BrCl
solvent | isopropanol | 2400 ml | C(C)(C)O | C3H8O
product | 2-[(4-Chlorobutyl)thio]benzyl alcohol | 246.0 g | ClCCCCSC1=C(CO)C=CC=C1 | C11H15ClOS
